US03996381
EXAMPLE 2. N,N-DIMETHYL-3-CHLORO-4-(2-NITROPROPENYL)ANILINE
A solution of 36.8 g of 2-chloro-4-dimethylaminobenzaldehyde, 18 ml of nitroethane and 15 g of ammonium acetate in 150 ml of absolute ethanol is refluxed for 2 hours. The mixture is then poured into 1.5 l of water, whereupon the compound separates as a viscous red oil, which crystallizes on scratching. Recrystallization from ethanol yields 18.0 g of the compound, melting at 93°-94°.

reactant | 2-chloro-4-dimethylaminobenzaldehyde | 36.8 g | ClC1=C(C=O)C=CC(=C1)N(C)C | C9H10ClNO
reactant | nitroethane | 18 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 15 g | C(C)(=O)[O-].[NH4+]
reactant | water | 1.5 l | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N,N-DIMETHYL-3-CHLORO-4-(2-NITROPROPENYL)ANILINE | 18.0 g | CN(C1=CC(=C(C=C1)C=C(C)[N+](=O)[O-])Cl)C | C11H13ClN2O2
